US06596719B1
At 5° C. 12.7 g of sodium methylate was added portionwise to a solution of 18.9 g of dimethyl-2-(o-methoxyphenoxy)malonate in 450 ml of methanol. Upon completion of the addition stirring was continued at room temperature for 30 min followed by the addition of 6 g of formamidine hydrochloride. The mixture was stirred at room temperature for 72 h. Eventually, the solvent was removed under reduced pressure and the remaining residue was suspended in diethyl ether. The solid material was filtered off and dissolved in 100 ml of water. The solution was acidified with conc. hydrochloric acid. A white precipitate formed. The precipitate was collected, washed with water and dried to give 15.1 g of 5-(o-methoxyphenoxy)-4,6-dihydroxy-pyrimidine (or a tautomer) as a white powder.

reactant | sodium methylate | 12.7 g | C[O-].[Na+]
reactant | dimethyl-2-(o-methoxyphenoxy)malonate | 18.9 g | COC(C(C(=O)OC)OC1=C(C=CC=C1)OC)=O | C12H14O6
reactant | formamidine hydrochloride | 6 g | Cl.C(=N)N
solvent | methanol | 450 ml | CO | CH4O
product | 5-(o-methoxyphenoxy)-4,6-dihydroxy-pyrimidine | 15.1 g | COC1=C(OC=2C(=NC=NC2O)O)C=CC=C1 | C11H10N2O4
